US04346088
2-(4-Diethylaminophenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-4-thiazoline hydrobromide
Obtained by a procedure analogous to that indicated in Example 1 (b), from 2-(4-diethylaminophenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-thiazolidin-4-ol hydrobromide. After heating in glacial acetic acid, the solvent is distilled off until the volume is 30 ml, and the desired product is precipitated with 150 ml of diisopropyl ether. Colorless crystals; melting point 257° C. (with decomposition).

reactant | 2-(4-diethylaminophenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-thiazolidin-4-ol hydrobromide | Br.C(C)N(C1=CC=C(C=C1)N=C1SCC(N1C)(O)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O)CC
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-Diethylaminophenyl-imino)-4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-4-thiazoline hydrobromide | Br.C(C)N(C1=CC=C(C=C1)N=C1SC=C(N1C)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O)CC | InChI=1S/C22H27ClN4O2S2.BrH/c1-6-27(7-2)18-11-9-17(10-12-18)24-22-26(5)20(15-30-22)16-8-13-19(23)21(14-16)31(28,29)25(3)4;/h8-15H,6-7H2,1-5H3;1H
